US08168794B2
To a solution of (+/−)-tert-butyl 6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate (1.0 equiv.) in pyridine (0.1M) was added Ac2O (2.0 equiv.) and the reaction was stirred at room temperature overnight. Upon completion, the reaction was concentrated to dryness, then worked-up with ethyl acetate and water. The organic phase was dried with brine, then sodium sulfate, filtered, and concentrated to give (+/−)-2-(tert-butoxycarbonylamino)-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enyl acetate in 94% yield. LC/MS=392.2 (M+H), Rt=0.94 min.

reactant | (+/−)-tert-butyl 6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | 1.0 equiv. | OC1C(CC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-])C | C17H23N3O5
reactant | Ac2O | 2.0 equiv. | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 0.1M | N1=CC=CC=C1 | C5H5N
product | (+/−)-2-(tert-butoxycarbonylamino)-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enyl acetate | 94% yield | C(C)(=O)OC1C(C=C(CC1C)C1=C(C=NC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C | C19H25N3O6
